US05780482
A mixture of 2-methyl-5-chloro-1,8-naphthyridine (2.0 g), 4-(2-pyridyloxy)aniline (2.1 g) and IMS (50 ml) was boiled under reflux for 3.5 hours. The mixture was cooled and filtered to give a solid. The solid was suspended in IMS (770 ml) and hydrogen chloride gas was bubbled through the mixture while the mixture was cooled in an ice bath. The mixture was then warmed until all the solid had dissolved and then cooled in an ice bath and further hydrogen chloride gas was bubbled through. After standing at 0° C. for 3 minutes, ethyl acetate (approximately 150 ml) was added and the precipitate was collected by filtration to give 2-methyl-5-[4-(2-pyridyloxy)anilino]-1,8-naphthyridine hydrochloride hydrate, m.p. 299°-305° C. Active (1/2) at 30 mg/kg.

reactant | 2-methyl-5-chloro-1,8-naphthyridine | 2.0 g | CC1=NC2=NC=CC(=C2C=C1)Cl | C9H7ClN2
reactant | 4-(2-pyridyloxy)aniline | 2.1 g | N1=C(C=CC=C1)OC1=CC=C(N)C=C1 | C11H10N2O
product | 2-methyl-5-[4-(2-pyridyloxy)anilino]-1,8-naphthyridine hydrochloride hydrate | O.Cl.CC1=NC2=NC=CC(=C2C=C1)NC1=CC=C(C=C1)OC1=NC=CC=C1 | InChI=1S/C20H16N4O.ClH.H2O/c1-14-5-10-17-18(11-13-22-20(17)23-14)24-15-6-8-16(9-7-15)25-19-4-2-3-12-21-19;;/h2-13H,1H3,(H,22,23,24);1H;1H2
